US07820654B2
Step (i). Synthesis of 5-bromo-benzo[1,3]dioxole
A mixture of ceric ammonium nitrate (9.88 g, 18.0 mmol) and lithium bromide (1.5 g, 18.0 mmol) in acetonitrile (20 mL) was stirred for 30 minutes at 25° C. under nitrogen atmosphere. A solution of benzo[1,3]dioxol (2 g, 16 mmol) in acetonitrile (20 mL) was added slowly to it and the mixture was stirred for 4 hours at 25° C. The mixture was then diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic layers were collected, combined, washed with water (50 mL), dried over anhydrous sodium sulphate, and concentrated under vacuum to give the desired product.

reactant | lithium bromide | 18.0 mmol, 1.5 g | [Br-].[Li+]
reactant | benzo[1,3]dioxol | 16 mmol, 2 g | O1COC2=C1C=CC=C2 | C7H6O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 5-bromo-benzo[1,3]dioxole | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
